PUSH PULL TEST CIRCUIT IN XYCE
*.TRAN 1u 200m
*.TRAN 1u 2m
.TRAN 1u 1.0e-3


.options timeint method =gear

.PRINT TRAN V(HV)

.SUBCKT 7834DREDS39 1 2 
D1 1 2 DFOR 
D2 2 1 DLEAK 
D3 2 3 DBLOCK 
IC 1 3 1.415 
RC 1 3 59 
.MODEL DFOR D( 
+ LEVEL=2
+ IS = 4.0E-13 N = 1.22 BV = 1000 IBV = 0.001 
+ RS = 0.05 CJO = 5.9E-11 VJ = 0.4 M = 0.33 
+ FC = 0.5 EG = 1.11 XTI = 3 TT = 5.6E-6)
.MODEL DLEAK D(
+ IS = 4.236E-11 N = 1058 XTI = 3 EG = 1.1 RS = 0 CJO=1.0E-11)
.MODEL DBLOCK D(
+ IS = 1E-12 N = 0.62 RS = 22 XTI = 3 EG = 1.1 CJO = 1.0E-11) 
.ENDS
*
.MODEL 89DR3DS2DO D(
+ LEVEL=2
+ IS = 4.6E-9 N = 1.792 BV = 1000 IBV = 0.001 
+ RS = 0.4 CJO = 1.3E-12 VJ = 0.6 M = 0.06 
+ FC = 0.1 TT = 4.8E-9 EG = 1.11 XTI = 3 
+ IKF = 0.012 ISR = 3.4E-9 NR = 2)
*
.MODEL TY78YYRD D( 
+ LEVEL=2
+ IS = 2.5E-11 N = 6.835 BV = 3000 IBV = 5E-6 
+ RS = 0.55 CJO = 5.5E-12 VJ = 2.0 M = 0.4 
+ FC = 0.5 TT = 1.55E-7 EG = 4.44 XTI = 3 
+ IKF = 0.003 ISR = 3.0E-10 NR = 10)
*
.MODEL RT8920DD NPN( 
+ IS = 1.3E-014  BF = 150  NF = 0.9  VAF = 80  IKF = 0.9 
+ ISE = 5E-015  NE = 1.3  BR = 8.5  NR = 0.99  VAR = 14
+ IKR = 0.11  ISC = 3.0E-13  NC = 1.484  RB = 6.848  IRB = 0.004878 
+ CJE = 2.7E-11  VJE = 0.7  MJE = 0.3  TF = 0  XTF = 0  VTF = 1100 
+ ITF = 0  PTF = 0  CJC = 1.0E-11  VJC = 0.44  MJC = 0.24  XCJC = 1 
+ TR = 0  FC = 0.5
+ CJS=1.0E-11 )
*
.SUBCKT G89R006 10 20 30 
LD 10 5 5E-009 
LG 20 8 5E-009 
LS 30 9 1.5E-008 
RD1 5 4 0.01517 
RD2 4 2 0.0147 
RG 8 1 0.1 
RS 9 3 0.01106 
DDS 9 5 DDS1 
DGD 6 4 DGD 
RDGD 4 6 3.837E+010 
M2 6 4 1 100  MSW1 
RSUB1 1 100 1E+011 
CGDMAX 4 7 4E-010 
RCGD 4 7 1E+011 
M3 7 4 1 101  MSW2 
RSUB2 1 101 1E+011 
M1 2 1 3 30 MAIN 
+ L = 1.6E-006 
+ W = 0.8697 
CGS 1 3 7E-011 
.MODEL MSW1 NMOS 
+ LEVEL = 1  VTO = 0  KP = 10 
+ CBD=1.0E-11 CBS=1.0E-11 CJ=1.0E-11
.MODEL MSW2 PMOS 
+ LEVEL = 1  VTO = 0  KP = 10 
+ CBD=1.0E-11 CBS=1.0E-11 CJ=1.0E-11
.MODEL MAIN NMOS 
+ LEVEL = 3  VTO = 4.112  NFS = 8.1E+011  NSUB = 4E+016  TOX = 1.2E-007 
+ KAPPA = 0.06  ETA = 0.001 PHI = 0.6757  THETA = 0.05943 
+ KP = 7.7E-005 
+ CBD=1.0E-11 CBS=1.0E-11 CJ=1.0E-11
+ CGBO=1.0E-11 CGDO=1.0E-11 CGSO=1.0E-11 CJSW=1.0E-11
.MODEL DDS1 D 
+ IS = 2.0E-012  N = 1.03  RS = 0.009 CJO = 2.9E-009  VJ = 0.6
+ M = 0.3392  FC = 0.5  BV = 100  IBV = 0.00025  XTI = 3  TT = 1E-008 
.MODEL DGD D 
+ CJO = 7.3E-010  VJ = 7.7  M = 1.2  FC = 0.5  BV = 100  IBV = 0.00025 
.ENDS

*
* Schematics Netlist *
*
C_C123         0 $N_0001  4u  
V_IA1         $N_0002 $N_0003   
Q_Q1         $N_0005 $N_0004 0 RT8920DD
D_D38         $N_0006 0 89DR3DS2DO
V_V1         $N_0002 0 DC 0 PULSE(0 18 0 1n 1m 15 30)
V_OSC_A         $N_0007 0 DC 0 PULSE (5 0 1u 0.1u 0.1u 16u 44u)
R_R18         0 $N_0008  100k
R_R21         0 $N_0006  250
R_R16         $N_0005 $N_0008  50
C_C1         $N_0007 $N_0004  150p
R_R1         $N_0007 $N_0004  220
R_R14         $N_0005 $N_0001  700
R_R50         $N_0003 $N_0001  4
V_IA2         $N_0009 $N_0010   
V_V2         $N_0009 0 DC 0 PULSE (0 18 0 1n 1m 15 30)
Q_Q2         $N_0012 $N_0011 0 RT8920DD 
X_M3         $N_0014 $N_0013 0 G89R006
X_D36         0 $N_0014 7834DREDS39
D_D37         $N_0015 0 89DR3DS2DO 
V_OSC_B         $N_0016 0 DC 0 PULSE (5 0 15u 0.1u 0.1u 12u 32u)
R_R70         0 $N_0015  250
R_R112         $N_0012 $N_0013  50
R_R2         $N_0016 $N_0011  220
R_R15         $N_0012 $N_0001  700
C_C2         $N_0016 $N_0011  150p
R_R80         0 $N_0013  100k
C_C70         $N_0015 $N_0014  5n IC=0
C_C101         0 HV  1u IC=0
R_R101         0 HV  40MEG
R_R100         $N_0017 HV  2k
D_D39         $N_0018 $N_0017 TY78YYRD
Kn_K12         L_L1 L_L2     0.99
Kn_K13         L_L1 L_L3     .45
L_L1         $N_0019 $N_0020  30u
L_L2         $N_0020 $N_0021  30u
Kn_K23         L_L2 L_L3     .45
R_R90         0 $N_0020  100k
C_C51         0 $N_0020  4u IC=0
R_R51         $N_0010 $N_0020  4
L_L3         $N_0022 $N_0023  115m  
R_rprim2         $N_0014 $N_0021  0.24
X_D35         0 $N_0024 7834DREDS39
C_C20         $N_0006 $N_0024  5n IC=0
X_M2         $N_0024 $N_0008 0 G89R006
R_rprim1         $N_0024 $N_0019  0.24
R_rsec2         $N_0022 0  40
C_Csec         0 $N_0018  16p
R_rsec1         $N_0023 $N_0018  40

.END
